US04597902
N-[2-(Phenylthio)ethyl]-2-propanamine hydrochloride[1:1]
A solution of 25 g (0.145 mole) of 2-chloroethyl phenyl sulfide and 1 g (0.006 mole) of potassium iodide in 500 ml of isopropylamine was heated in a bomb at 120° C. for 24 hr. The solvent was removed in vacuo, and the residue was partitioned between methylene chloride and dilute sodium hydroxide. The methylene chloride solution was extracted with dilute sulfuric acid. The acidic extract was made basic with 50% sodium hydroxide, and the basic solution was extracted with methylene chloride. The methylene chloride solution was dried over magnesium sulfate and the solvent was removed in vacuo to given an oil. This was converted to the hydrochloride salt, and the salt was recrystallized from methanol-ether to give 25.77 g (76.9%) of white crystalline solid, m.p. 124.5°-125.5° C.

reactant | 2-chloroethyl phenyl sulfide | 0.145 mole, 25 g | C1(=CC=CC=C1)SCCCl | C8H9ClS
reactant | potassium iodide | 0.006 mole, 1 g | [I-].[K+]
reactant | isopropylamine | 500 ml | C(C)(C)N | C3H9N
product | N-[2-(Phenylthio)ethyl]-2-propanamine hydrochloride | 25.77 g, 76.9% | Cl.C1(=CC=CC=C1)SCCNC(C)C | InChI=1S/C11H17NS.ClH/c1-10(2)12-8-9-13-11-6-4-3-5-7-11;/h3-7,10,12H,8-9H2,1-2H3;1H
